US07709483B2
(d) Furo[2,3-c]pyridin-5-ylmethanol
A solution of furo[2,3-c]pyridin-5-ylmethyl acetate (1.15 g) in 1,4-dioxane (30 ml) and water (10 ml) was treated with 2M sodium hydroxide (12 ml) then stirred at ambient temperature for 18 h. The mixture was then partitioned between ethyl acetate and water. The organic fractions were separated and dried then evaporated to dryness. This gave an oil (0.63 g, 70%).

reactant | furo[2,3-c]pyridin-5-ylmethyl acetate | 1.15 g | C(C)(=O)OCC=1C=C2C(=CN1)OC=C2 | C10H9NO3
reactant | sodium hydroxide | 2M, 12 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | Furo[2,3-c]pyridin-5-ylmethanol | 0.63 g, 70% | O1C=CC=2C1=CN=C(C2)CO | C8H7NO2
